US07645789B2
Step a: 1-(2,3-Dihydro-1H-inden-6-yl)ethanone
A mixture of 2,3-dihydro-1H-indene (100.0 g, 0.85 mol) and acetic anhydride (104.2 g, 1.35 mol) was added drop-wise to a slurry of AlCl3 (272.0 g, 2.04 mol) in CH2Cl2 (1000 ml) at 0° C. over a period of 3 h. The reaction mixture was stirred at room temperature under a nitrogen atmosphere for 15 h. Then the reaction mixture was poured into ice water (500 mL) and extracted with ethyl acetate (500 mL×3). The combined organic layers were washed with brine (500 mL), dried over Na2SO4 and evaporated in vacuo. The residue that was purified by column chromatography (petroleum ether:ethyl acetate=20:1) to give the product (120.0 g, 88%). 1H NMR (400 MHz, CDCl3) δ 2.08-2.15 (m, 2H), 2.58 (s, 3H), 2.95 (t, J=7.2, 4H), 7.28 (d, J=8.0, 1H), 7.75 (d, J=8.0, 1H) 7.82 (s, 1H).

reactant | 2,3-dihydro-1H-indene | 0.85 mol, 100.0 g | C1CCC2=CC=CC=C12 | C9H10
reactant | acetic anhydride | 1.35 mol, 104.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | AlCl3 | 2.04 mol, 272.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 1000 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,3-Dihydro-1H-inden-6-yl)ethanone | 120.0 g, 88% | C1CCC2=CC=C(C=C12)C(C)=O | C11H12O
